data/rdb19/train.csv
rxn,smiles,ea
4090,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20]([C:21]([C:22]([C:23]([H:36])([H:37])[H:38])([c:24]1[c:25]([H:39])[c:26]([H:40])[c:27]([H:41])[c:28]([H:42])[c:29]1[H:43])[H:35])([H:33])[H:34])([H:30])([H:31])[H:32]>>[C:1]([C:2]([C:3](=[C:4]([H:14])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])([H:10])[H:11].[H:15][C:24]1([C:22]([C:21]([C:20]([H:30])([H:31])[H:32])([H:33])[H:34])([C:23]([H:36])([H:37])[H:38])[H:35])[C:25]([H:39])[C:26]([H:40])=[C:27]([H:41])[C:28]([H:42])=[C:29]1[H:43],45.196392567129806
1919,[C:11]([C:12]([C:13]([H:14])[H:15])([C:16](=[O:17])[N:18]([H:23])[H:24])[H:22])([H:19])([H:20])[H:21].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[H:9][C:13]([C:12]([C:11]([H:19])([H:20])[H:21])([C:16](=[O:17])[N:18]([H:23])[H:24])[H:22])([H:14])[H:15].[N:1]([C:2](=[O:3])[C:4](=[C:5][H:10])[H:8])([H:6])[H:7],23.817878521454983
3003,[C:16]([C:17]([C:18]([C:19]([H:28])([H:29])[H:30])[C:20](=[O:21])[O:22][H:31])([H:26])[H:27])([H:23])([H:24])[H:25].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:16]([C:17]([H:26])[H:27])([H:23])([H:24])[H:25].[C:1]([C:2]([O:3][C:4]1([C:6](=[C:7]([H:14])[H:15])[H:13])[O:5][C:18]1([C:19]([H:28])([H:29])[H:30])[C:20](=[O:21])[O:22][H:31])([H:11])[H:12])([H:8])([H:9])[H:10],93.78441018390004
1664,[C:15]([C:16]([C:17]([C:18]([H:31])([H:32])[H:33])([c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])[H:30])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:15]([C:16]([H:28])[H:29])([H:25])([H:26])[H:27].[C:1]([C:2]([C:3]([H:4])([H:5])[C:17]([C:18]([H:31])([H:32])[H:33])([c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])[H:30])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11],63.31639061094029
677,[C:19]([C:20]([C:21]([H:22])[C:23](=[O:24])[O:25][H:31])([H:29])[H:30])([H:26])([H:27])[H:28].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([H:11])[H:12])([H:8])([H:9])[H:10].[C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])([H:13])[C:21]([C:20]([C:19]([H:26])([H:27])[H:28])([H:29])[H:30])([H:22])[C:23](=[O:24])[O:25][H:31],62.79078885848867
2520,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])[H:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([C:21]([C:22]([C:23]([H:31])([H:32])[H:33])([C:24]([H:34])([H:35])[H:36])[C:25]([H:37])([H:38])[H:39])([H:29])[H:30])([H:26])([H:27])[H:28]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])([H:10])[H:30])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([C:21]([C:22]([C:23]([H:31])([H:32])[H:33])([C:24]([H:34])([H:35])[H:36])[C:25]([H:37])([H:38])[H:39])[H:29])([H:26])([H:27])[H:28],20.206254318298303
5246,[C:1]([C:2]([C:3]([H:4])[H:5])([c:6]1[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]1[H:20])[H:15])([H:12])([H:13])[H:14].[C:21]([C:22](=[O:23])[O:24][C:25](=[C:26]([H:31])[H:32])[H:30])([H:27])([H:28])[H:29]>>[C:1]([C:2]([C:3]([H:4])([H:5])[O:24][C:25](=[C:26]([H:31])[H:32])[H:30])([c:6]1[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]1[H:20])[H:15])([H:12])([H:13])[H:14].[C:21]([C:22]=[O:23])([H:27])([H:28])[H:29],63.65648080280516
312,[C:4]([O:5][C:6](=[O:7])[C:8](=[C:9]([H:14])[H:15])[C:10]([H:16])([H:17])[H:18])([H:11])([H:12])[H:13].[O:1]([O:2])[H:3]>>[C:4]([O:5][C:6](=[O:7])[C:8](=[C:9]([H:14])[H:15])[C:10]([H:17])[H:18])([H:11])([H:12])[H:13].[O:1]([O:2][H:16])[H:3],22.97501599637326
2225,[C:1]([C:2]([H:3])([H:4])[O:10][C:11](=[O:12])[C:13]([C:14]([H:23])([H:24])[H:25])([C:15]([C:16]([H:28])([H:29])[H:30])([H:26])[H:27])[H:22])([H:5])([H:6])[H:7].[C:8]([C:9]([H:20])[H:21])([H:17])([H:18])[H:19]>>[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([O:10][C:11](=[O:12])[C:13]([C:14]([H:23])([H:24])[H:25])([C:15]([C:16]([H:28])([H:29])[H:30])([H:26])[H:27])[H:22])([H:20])[H:21])([H:17])([H:18])[H:19],65.59735689731315
1050,[C:14]([C:15]([C:16]([C:17]([H:30])([H:31])[H:32])([c:18]1[c:19]([H:33])[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]1[H:37])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:14]([C:15]([C:16]([c:18]1[c:19]([H:33])[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]1[H:37])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2](=[C:3]([H:4])[H:5])[C:6](=[O:7])[O:8][H:13])([H:9])([H:10])[H:11].[H:12][C:17]([H:30])([H:31])[H:32],71.02001080353511
